US08211923B2
1-methyl-6-nitro-1H-indole-3-carboxylic acid
1.87 g of 2,2,2-trifluoro-1-(1-methyl-6-nitro-1H-indol-3-yl)-ethanone are combined with 32 ml of 6 N sodium hydroxide solution and refluxed for 3 hours. After cooling to ambient temperature the mixture is diluted with water and washed with ethyl acetate. Then by careful addition of 3 N hydrochloric acid the mixture is adjusted to pH 2 and extracted twice with ethyl acetate. The combined organic phases are dried on magnesium sulphate and the solvents are eliminated in vacuo.

reactant | 2,2,2-trifluoro-1-(1-methyl-6-nitro-1H-indol-3-yl)-ethanone | 1.87 g | FC(C(=O)C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)(F)F | C11H7F3N2O3
reactant | sodium hydroxide | 6 N, 32 ml | [OH-].[Na+]
solvent | water | O | H2O
product | 1-methyl-6-nitro-1H-indole-3-carboxylic acid | CN1C=C(C2=CC=C(C=C12)[N+](=O)[O-])C(=O)O | C10H8N2O4
